US06503949B1
1,3,5-Trimethylbenzene (6.85 g, 57 mmol), methyl 5-chloromethyl-2-furanoate (2.48 g, 14.2 mmol) and aluminum trichloride (2.46 g, 18 mmol) were refluxed in dichloromethane (30 mL) for 4 h. The reaction was quenched with water, and the two layers were separated. The organic layer was concentrated and passed through a silica gel column. Hexane was used as the mobile phase to elute the product. The 5-(2,4,6-trimethylbenzyl)furan-2-carboxylic acid methyl ester was obtained as a yellow oil (86%).

reactant | 1,3,5-Trimethylbenzene | 57 mmol, 6.85 g | CC1=CC(=CC(=C1)C)C | C9H12
reactant | methyl 5-chloromethyl-2-furanoate | 14.2 mmol, 2.48 g | ClCC1=CC=C(O1)C(=O)OC | C7H7ClO3
reactant | aluminum trichloride | 18 mmol, 2.46 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 5-(2,4,6-trimethylbenzyl)furan-2-carboxylic acid methyl ester | COC(=O)C=1OC(=CC1)CC1=C(C=C(C=C1C)C)C | C16H18O3
